US04689339
1,4-Dimethyl-indene-2-carboxylic acid chloride
1,4-Dimethyl-indene-2-carboxylic acid is converted to its acid chloride by treatment with thionyl chloride. Yield 100%.

reactant | 1,4-Dimethyl-indene-2-carboxylic acid | CC1C(=CC2=C(C=CC=C12)C)C(=O)O | C12H12O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 1,4-Dimethyl-indene-2-carboxylic acid chloride | Yield 100% | CC1C(=CC2=C(C=CC=C12)C)C(=O)Cl | C12H11ClO
